US08975400B2
D2: 1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidine-5,7(1H,6H)-dione
To a suspension of 6-((2-hydroxyethyl)(methyl)amino)pyrimidine-2,4(1H,3H)-dione (0.463 g, 2.5 mmol) in tetrahydrofuran (310 ml) at rt was added Ph3P (1.967 g, 7.50 mmol), then DIAD (1.458 ml, 7.50 mmol) was added dropwise. The reaction mixture was stirred at rt for 3 h, and concentrated. The residue was partitioned between ethyl ether and water. The aqueous phase was separated, washed with ethyl ether again, and then concentrated to afford the title compound as a light-yellow solid (0.414 g, 99% yield).

reactant | 6-((2-hydroxyethyl)(methyl)amino)pyrimidine-2,4(1H,3H)-dione | 2.5 mmol, 0.463 g | OCCN(C1=CC(NC(N1)=O)=O)C | C7H11N3O3
reactant | Ph3P | 7.50 mmol, 1.967 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 7.50 mmol, 1.458 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 310 ml | O1CCCC1 | C4H8O
product | 1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidine-5,7(1H,6H)-dione | 0.414 g, 99% yield | CN1CCN2C(NC(C=C21)=O)=O | C7H9N3O2
